US08097613B2
(Trimethylsilyl)diazomethane (4.41 mL of a 1.0 M solution in diethyl ether, 8.82 mmol) was added over 5 min to a solution of racemic 1-(tert-butoxycarbonylamino-methyl)-cyclopropanecarboxylic acid (0.95 g, 4.41 mmol) in a 1:1 mixture of methanol/benzene (30 mL) at 0° C. The resulting yellow solution was stirred at 0° C. for 1 h, and then was concentrated in vacuo. The residue was dissolved in 1,4-dioxane (20 mL) at 25° C. and a 4.0 M solution of hydrochloric acid in 1,4-dioxane (20 mL) was subsequently added. After stirring at 25° C. for 5 h, the reaction mixture was concentrated in vacuo to afford a sticky oil. This material was dissolved in toluene (80 mL) and the solution was concentrated in vacuo (the process was then repeated). The resulting residue was dissolved in methanol (30 mL) at 25° C. and 4-fluorobenzaldehyde (0.473 mL, 4.41 mmol), sodium acetate (0.723 g, 8.81 mmol), powdered/activated 4 Å molecular sieves (1.87 g) and sodium cyanoborohydride (0.554 g, 8.82 mmol) were added sequentially. The mixture was stirred at 25° C. for 19 h, then was filtered through Celite. The Celite was washed with methanol (2×30 mL) and the combined filtrate and washings were concentrated in vacuo. The residue was partitioned between half-saturated aqueous sodium bicarbonate solution (150 mL) and ethyl acetate (2×150 mL). The combined organic layers were dried over sodium sulfate and were concentrated in vacuo. The residue was purified by flash column chromatography (Teledyne Isco RediSep column; 50-100% ethyl acetate in hexanes) to afford 1-[(4-fluoro-benzylamino)-methyl]-cyclopropanecarboxylic acid methyl ester (0.050 g, 0.211 mmol, 5%) as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ: 0.79-0.82 (2H, m), 1.26-1.28 (2H, m), 2.70 (2H, s), 3.66 (3H, s), 3.79 (2H, s), 6.97-7.01 (2H, m), 7.28-7.31 (2H, m).

reactant | (Trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | racemic 1-(tert-butoxycarbonylamino-methyl)-cyclopropanecarboxylic acid | 4.41 mmol, 0.95 g | C(C)(C)(C)OC(=O)NCC1(CC1)C(=O)O | C10H17NO4
reactant | 4-fluorobenzaldehyde | 4.41 mmol, 0.473 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium acetate | 8.81 mmol, 0.723 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 8.82 mmol, 0.554 g | C(#N)[BH3-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol benzene | 30 mL | CO.C1=CC=CC=C1
product | 1-[(4-fluoro-benzylamino)-methyl]-cyclopropanecarboxylic acid methyl ester | 0.211 mmol, 0.050 g, 5% | COC(=O)C1(CC1)CNCC1=CC=C(C=C1)F | C13H16FNO2
